2164-05-06 07:40:00 Physician Resident Progress Note
Chief Complaint: Small Cell Lung CA, Hypoxia
   24 Hour Events:
   Pt started on ceftriaxone and flagyl for possible post obstructive PNA.
   Chemotherapy held last pm for poor urine output. UO responded with IVF.
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   History obtained from [**Hospital 85**] Medical recordsSulfa (Sulfonamides)
   Unknown;
   Prednisone
   Unknown;
   Tetanus
   Unknown;
   Paxil (Oral) (Paroxetine Hcl)
   psychosis;
   Last dose of Antibiotics:
   Ceftriaxone - [**2164-5-5**] 04:23 PM
   Metronidazole - [**2164-5-6**] 06:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-5-6**] 07:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.6
C (97.9
   HR: 107 (99 - 146) bpm
   BP: 155/64(84) {121/52(70) - 179/89(107)} mmHg
   RR: 19 (15 - 25) insp/min
   SpO2: 90%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 64 Inch
             Total In:
                                                                  1,847 mL
                                                                  1,453 mL
   PO:
                                                                    100 mL
             TF:
   IVF:
                                                                  1,747 mL
                                                                  1,453 mL
   Blood products:
   Total out:
                                                                    583 mL
                                                                    170 mL
   Urine:
                                                                    583 mL
                                                                    170 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,264 mL
                                                                  1,283 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 90%
   ABG: ///23/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic), tachy
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Percussion: Dullness : bases b/l), (Breath
   Sounds: Absent : RLL)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   312 K/uL
   12.0 g/dL
   125 mg/dL
   0.4 mg/dL
   23 mEq/L
   3.8 mEq/L
   19 mg/dL
   104 mEq/L
   141 mEq/L
   36.6 %
   7.2 K/uL
        [image002.jpg]
                             [**2164-5-5**]  03:00 PM
                             [**2164-5-6**]  03:31 AM
   WBC
   7.2
   Hct
   36.6
   Plt
   312
   Cr
   0.4
   0.4
   Glucose
   124
   125
   Other labs: LDH:611 IU/L, Ca++:9.1 mg/dL, Mg++:2.2 mg/dL, PO4:2.7 mg/dL
   Imaging: [**5-5**] CHEST:
   There has been no significant change since the prior chest x-ray. Right
   lower
   lobe collapse persists with bilateral effusions
   Assessment and Plan
   /P: 80 yo F with a new diagnosis small cell lung cancer on chemotherapy
   for less than 24 hours, transferred to the ICU with progressive
   hypoxia.
   .
   # Hypoxia. Very large A-a gradient. Multiple possible etiologies. The
   patient has a large mediastinal soft tissue mass causing RLL collapse.
   Further airway compression/obstruction is possible as is further
   external compression of pulmonary arteries. A PE is possible given
   reports of SVC invasion with associated thrombus and malignancy
   associated hypercoagulability. This would further be supported by
   tachycardia. Pulmonary edema is possible given reports of likely
   positive fluid balance since entering the hospital though CXR and exam
   seem less suggestive of significant edema. A medication effect of
   chemotherapy is possible due to recent initiation of therapy.
   Infectious cause seems unlikely given that the patient is afebrile with
   a normal WBC. Compression and atelectasis from bilateral pleural
   effusions may also be contributing.
   - For compression/obstruction of vasculature and airways: Continue
   chemotherapy, radiation-oncology consult regarding possible XRT.
   - For possible PE: To consider empiric systemic anticoagulation, CTA if
   patient is able to tolerate study
   - For possible fluid overload: Maintain negative fluid balance as blood
   pressure tolerates, goal -1L
   - For possible medication effect: Continue to monitor.
   - For possible infectious etiology: Culture for any fever spike.
   - For component of compression due to pleural effusions: To consider
   thoracentesis on the right side.
   - Ipratropium and albuterol nebs.
   - Discussed with the patient, will intubate if necessary.
   .
   # Small cell lung cancer. New diagnosis.
   - Continue chemotherapy and steroids. Sliding scale insulin while on
   steroids.
   - Trend tumor lysis labs. Allopurinol prophylaxis.
   - Heme-onc and radiation-oncology consults.
   - Pain control with vicodin.
   - Lorazepam for symptomatic treatment.
   .
   # Depression. Continue mirapex and mirtazipine.
   .
   # Hypothyroidism. Continue levothyroxine.
   .
   # Prophylaxis. Heparin subq vs. systemic anticoagulation. PPI. Bowel
   regimen.
   .
   # Access: Peripheral IV's.
   .
   # Contact: HCP, sister [**Name (NI) 3171**] [**Name (NI) 3172**] [**Name (NI) 3173**]
   .
   # Code: Full
   .
   # Dispo: ICU
   ICU Care
   Nutrition:
   Comments: Regular
   Glycemic Control:
   Lines:
   22 Gauge - [**2164-5-5**] 11:23 AM
   20 Gauge - [**2164-5-5**] 11:24 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held  Comments:
   Code status: Full code
   Disposition:ICU

2164-05-07 07:23:00 Physician Resident Progress Note
Chief Complaint: Small Cell Lung CA
   [**79**] Hour Events:
   Per Onc Recs will not continue chemotherapy due due tenuous respiratory
   status. Onc contact[**Name (NI) **] [**Name2 (NI) 3197**] to consider [**Name (NI) 3084**]. Pt w/ hypertension yest
   requiring occassional hydral as not taking PO. Got lasix 20mg X2.
   Allergies:
   Sulfa (Sulfonamides)
   Unknown;
   Prednisone
   Unknown;
   Tetanus
   Unknown;
   Paxil (Oral) (Paroxetine Hcl)
   psychosis;
   Last dose of Antibiotics:
   Ceftriaxone - [**2164-5-6**] 04:29 PM
   Metronidazole - [**2164-5-7**] 06:00 AM
   Infusions:
   Other ICU medications:
   Hydralazine - [**2164-5-6**] 01:00 PM
   Furosemide (Lasix) - [**2164-5-7**] 01:46 AM
   Heparin Sodium (Prophylaxis) - [**2164-5-7**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-5-7**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.1
C (97
   HR: 119 (93 - 122) bpm
   BP: 139/64(84) {137/63(81) - 182/97(117)} mmHg
   RR: 20 (16 - 25) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 64 Inch
             Total In:
                                                                  3,578 mL
                                                                    621 mL
   PO:
                                                                     95 mL
                                                                    200 mL
   TF:
   IVF:
                                                                  3,483 mL
                                                                    421 mL
   Blood products:
   Total out:
                                                                  2,075 mL
                                                                    830 mL
   Urine:
                                                                  2,075 mL
                                                                    830 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,503 mL
                                                                   -209 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 93%
   ABG: ///31/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Absent :
   RML&RLL)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   327 K/uL
   13.1 g/dL
   115 mg/dL
   0.5 mg/dL
   31 mEq/L
   3.4 mEq/L
   23 mg/dL
   102 mEq/L
   141 mEq/L
   39.0 %
   8.6 K/uL
        [image002.jpg]
                             [**2164-5-5**]  03:00 PM
                             [**2164-5-6**]  03:31 AM
                             [**2164-5-6**]  05:15 PM
                             [**2164-5-7**]  04:01 AM
   WBC
   7.2
   8.6
   Hct
   36.6
   39.0
   Plt
   312
   327
   Cr
   0.4
   0.4
   0.5
   0.5
   Glucose
   124
   125
   115
   Other labs: Differential-Neuts:92.0 %, Band:0.0 %, Lymph:7.0 %,
   Mono:1.0 %, Eos:0.0 %, LDH:474 IU/L, Ca++:9.6 mg/dL, Mg++:2.0 mg/dL,
   PO4:2.3 mg/dL
   Assessment and Plan
   P: 80 yo F with a new diagnosis small cell lung cancer on chemotherapy
   for less than 24 hours, transferred to the ICU with progressive
   hypoxia.
   .
   # Small cell lung cancer. New diagnosis. Metastatic with invasion into
   SVC. Will hold further chemotherapy out o fconcern for worsening pts
   current condition due to large volume fluid needed and chemotherapy
   toxcities. Consider palliate radiation therapy. Pt is not a candidate
   for IP.
   - Heme-onc and radiation-oncology consults
 appreciate recs, rad/onc
   to evaluate for possible [**Year (4 digits) 3084**]
   - Pain control with vicodin.
   - Lorazepam for symptomatic treatment.
   .
   # Hypoxia. Very large A-a gradient. Multiple related to a large
   mediastinal soft tissue mass causing RML and RLL collapse. Further
   airway compression/obstruction is possible as is further external
   compression of pulmonary arteries.
   - For compression/obstruction of vasculature and airways: Given pt
   tenuous resp status and the need for large volume of fluids with
   chemotherapy
 in discussion with family and oncology plan to defer
   further chemotherapy for SCLL.
   - For possible fluid overload: Maintain negative fluid balance as blood
   pressure tolerates, goal -1L
   - Ipratropium and albuterol nebs.
   - Family to discuss further goals of care
   .
   # Depression. Continue mirapex and mirtazipine.
   .
   # Hypothyroidism. Continue levothyroxine.
   .
   # Prophylaxis. Heparin sc. PPI. Bowel regimen.
   .
   # Access: Peripheral IV's.
   .
   # Contact: HCP, sister [**Name (NI) 3171**] [**Name (NI) 3172**] [**Name (NI) 3173**]
   .
   # Code: DNR/DNI
   .
   # Dispo: ICU
   ICU Care
   Nutrition:
   Comments: regular
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   22 Gauge - [**2164-5-5**] 11:23 AM
   20 Gauge - [**2164-5-5**] 11:24 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held  Comments:
   Code status: DNR / DNI
   Disposition:ICU

2164-05-08 07:38:00 Physician Resident Progress Note
Chief Complaint: Metastatic Small Cell Lung CA
   [**79**] Hour Events:
   Pt reevaluated by Onc, given improved urine output, she received
   chemotherapy last pm with cisplatin and etoposide. Family declined XRT
   as they did not want her intubated for the procedure. Abx discontinued
   on [**5-6**].
   History obtained from Patient
   Allergies:
   History obtained from PatientSulfa (Sulfonamides)
   Unknown;
   Prednisone
   Unknown;
   Tetanus
   Unknown;
   Paxil (Oral) (Paroxetine Hcl)
   psychosis;
   Last dose of Antibiotics:
   Ceftriaxone - [**2164-5-6**] 04:29 PM
   Metronidazole - [**2164-5-7**] 06:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-5-8**] 07:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 35.8
C (96.5
   HR: 80 (78 - 119) bpm
   BP: 143/64(85) {120/48(64) - 165/80(100)} mmHg
   RR: 16 (14 - 25) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  2,336 mL
                                                                    317 mL
   PO:
                                                                    640 mL
             TF:
   IVF:
                                                                  1,696 mL
                                                                    317 mL
   Blood products:
   Total out:
                                                                  1,450 mL
                                                                    825 mL
   Urine:
                                                                  1,450 mL
                                                                    825 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    886 mL
                                                                   -508 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 96%
   ABG: ///32/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   LLL, Absent : Right Base)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed, moving all ext
   Labs / Radiology
   327 K/uL
   13.1 g/dL
   112 mg/dL
   0.4 mg/dL
   32 mEq/L
   4.3 mEq/L
   25 mg/dL
   105 mEq/L
   143 mEq/L
   39.0 %
   8.6 K/uL
        [image002.jpg]
                             [**2164-5-5**]  03:00 PM
                             [**2164-5-6**]  03:31 AM
                             [**2164-5-6**]  05:15 PM
                             [**2164-5-7**]  04:01 AM
                             [**2164-5-7**]  02:59 PM
   WBC
   7.2
   8.6
   Hct
   36.6
   39.0
   Plt
   312
   327
   Cr
   0.4
   0.4
   0.5
   0.5
   0.4
   Glucose
   124
   125
   115
   112
   Other labs: Differential-Neuts:92.0 %, Band:0.0 %, Lymph:7.0 %,
   Mono:1.0 %, Eos:0.0 %, LDH:474 IU/L, Ca++:9.9 mg/dL, Mg++:2.1 mg/dL,
   PO4:1.7 mg/dL
   Imaging: [**5-7**] CXR - FINDINGS: There is increased opacity at the left
   lower lobe suggesting
   worsening atelectasis however consolidation cannot be excluded. Small
   left
   pleural effusion remains. No significant change to appearance of post-
   obstructive atelectasis in the right lower and middle lobes with right
   paratracheal adenopathy.
   Assessment and Plan
   P: 80 yo F with a new diagnosis small cell lung cancer on chemotherapy
   for less than 24 hours, transferred to the ICU with progressive
   hypoxia.
   .
   # Small cell lung cancer. New diagnosis. Metastatic with invasion into
   SVC. Will hold further chemotherapy out o fconcern for worsening pts
   current condition due to large volume fluid needed and chemotherapy
   toxcities. Consider palliate radiation therapy. Pt is not a candidate
   for IP.
   - Heme-onc and radiation-oncology consults
 appreciate recs, rad/onc
   to evaluate for possible XRT
   - Pain control with vicodin.
   - Lorazepam for symptomatic treatment.
   .
   # Hypoxia. Very large A-a gradient. Multiple related to a large
   mediastinal soft tissue mass causing RML and RLL collapse. Further
   airway compression/obstruction is possible as is further external
   compression of pulmonary arteries.
   - For compression/obstruction of vasculature and airways: Given pt
   tenuous resp status and the need for large volume of fluids with
   chemotherapy
 in discussion with family and oncology plan to defer
   further chemotherapy for SCLL.
   - For possible fluid overload: Maintain negative fluid balance as blood
   pressure tolerates, goal -1L
   - Ipratropium and albuterol nebs.
   - Family to discuss further goals of care
   .
   # Depression. Continue mirapex and mirtazipine.
   .
   # Hypothyroidism. Continue levothyroxine.
   .
   # Prophylaxis. Heparin sc. PPI. Bowel regimen.
   .
   # Access: Peripheral IV's.
   .
   # Contact: HCP, sister [**Name (NI) 3171**] [**Name (NI) 3172**] [**Name (NI) 3173**]
   .
   # Code: DNR/DNI
   .
   # Dispo: ICU
   ICU Care
   Nutrition:
   Comments: Reg diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   22 Gauge - [**2164-5-7**] 07:51 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: DNR / DNI
   Disposition:ICU

2164-05-09 07:59:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
    tolerated chemo with cisplatin and etoposide
   Allergies:
   Sulfa (Sulfonamides)
   Unknown;
   Prednisone
   Unknown;
   Tetanus
   Unknown;
   Paxil (Oral) (Paroxetine Hcl)
   psychosis;
   Last dose of Antibiotics:
   Ceftriaxone - [**2164-5-6**] 04:29 PM
   Metronidazole - [**2164-5-7**] 06:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2164-5-8**] 02:07 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-5-9**] 07:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.1
C (97
   HR: 80 (72 - 107) bpm
   BP: 133/55(73) {117/51(72) - 170/86(100)} mmHg
   RR: 16 (14 - 23) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  1,622 mL
                                                                     78 mL
   PO:
                                                                    240 mL
             TF:
   IVF:
                                                                  1,382 mL
                                                                     78 mL
   Blood products:
   Total out:
                                                                  2,200 mL
                                                                    775 mL
   Urine:
                                                                  2,200 mL
                                                                    775 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -578 mL
                                                                   -697 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 94%
   ABG: ///31/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   285 K/uL
   12.2 g/dL
   130 mg/dL
   0.4 mg/dL
   31 mEq/L
   3.9 mEq/L
   16 mg/dL
   95 mEq/L
   132 mEq/L
   36.2 %
   7.0 K/uL
        [image002.jpg]
                             [**2164-5-5**]  03:00 PM
                             [**2164-5-6**]  03:31 AM
                             [**2164-5-6**]  05:15 PM
                             [**2164-5-7**]  04:01 AM
                             [**2164-5-7**]  02:59 PM
                             [**2164-5-8**]  07:09 AM
                             [**2164-5-9**]  05:13 AM
   WBC
   7.2
   8.6
   4.7
   7.0
   Hct
   36.6
   39.0
   39.2
   36.2
   Plt
   [**Telephone/Fax (3) 3245**]85
   Cr
   0.4
   0.4
   0.5
   0.5
   0.4
   0.4
   0.4
   Glucose
   124
   125
   115
   112
   132
   130
   Other labs: ALT / AST:[**9-13**], Alk Phos / T Bili:60/0.3,
   Differential-Neuts:92.0 %, Band:0.0 %, Lymph:7.0 %, Mono:1.0 %, Eos:0.0
   %, LDH:580 IU/L, Ca++:8.8 mg/dL, Mg++:2.1 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   P: 80 yo F with a new diagnosis small cell lung cancer on chemotherapy
   for less than 24 hours, transferred to the ICU with progressive
   hypoxia.
   # Small cell lung cancer. New diagnosis. Metastatic with invasion into
   SVC.
   -s/p chemo etoposide / cisplatinThe patient was restarted on
   chemotherapy overnight as she had demonstrated improved urinary output.
   Tolerated etoposide and cisplantin well. Rad-Onc evaluated pt and
   discussed options for XRT. The pt felt she would be unable to lay flat
   comfortably and did not want to consider intubation for XRT. Plan to
   readdress if pt clinically improves and is able to tolerate laying flat
   for procedure
   - Heme-onc and radiation-oncology consults
 appreciate recs, will
   receive chemotherapy again today to complete 1st cycle.
   - Pain control with vicodin.
   - Lorazepam for symptomatic treatment
   # Hypoxia. Very large A-a gradient. Multiple related to a large
   mediastinal soft tissue mass causing RML and RLL collapse. Further
   airway compression/obstruction is possible as is further external
   compression of pulmonary arteries.
   - Continue chemotherapy for SCLC as above
   - For possible fluid overload: Maintain negative fluid balance as blood
   pressure tolerates, goal -1L
   - Ipratropium and albuterol nebs.
   # Depression. Continue mirapex and mirtazipine.
   # Hypothyroidism. Continue levothyroxine.
   # Prophylaxis. Heparin sc. PPI. Bowel regimen.
   # Access: Peripheral IV's.
   # Contact: HCP, sister [**Name (NI) 3171**] [**Name (NI) 3172**] [**Name (NI) 3173**]
   # Code: DNR/DNI
   # Dispo: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2164-5-8**] 08:00 AM
   22 Gauge - [**2164-5-8**] 07:53 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2164-05-09 11:54:00 Physician Attending Progress Note
Chief Complaint: resp failure with SVC syndrome, bronchial compression
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Received chemotherapy yesterday without complication.
   History obtained from Patient
   Allergies:
   Sulfa (Sulfonamides)
   Unknown;
   Prednisone
   Unknown;
   Tetanus
   Unknown;
   Paxil (Oral) (Paroxetine Hcl)
   psychosis;
   Last dose of Antibiotics:
   Ceftriaxone - [**2164-5-6**] 04:29 PM
   Metronidazole - [**2164-5-7**] 06:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2164-5-8**] 02:07 PM
   Pantoprazole (Protonix) - [**2164-5-9**] 08:00 AM
   Other medications:
   Per resident note
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Dyspnea
   Flowsheet Data as of  [**2164-5-9**] 11:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36
C (96.8
   HR: 89 (72 - 107) bpm
   BP: 157/74(95) {117/51(72) - 170/86(100)} mmHg
   RR: 19 (14 - 23) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  1,622 mL
                                                                    192 mL
   PO:
                                                                    240 mL
             TF:
   IVF:
                                                                  1,382 mL
                                                                    117 mL
   Blood products:
   Total out:
                                                                  2,200 mL
                                                                  1,035 mL
   Urine:
                                                                  2,200 mL
                                                                  1,035 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -578 mL
                                                                   -843 mL
   Respiratory support
   O2 Delivery Device: Venti mask
   SpO2: 92%
   ABG: ///31/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: No(t) Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : Bibasilar, Wheezes :
   Scant B/L)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  No rashes
   Neurologic: Attentive, follows commands, purposeful movement, oriented
   x 3
   Labs / Radiology
   12.2 g/dL
   285 K/uL
   130 mg/dL
   0.4 mg/dL
   31 mEq/L
   3.9 mEq/L
   16 mg/dL
   95 mEq/L
   132 mEq/L
   36.2 %
   7.0 K/uL
        [image002.jpg]
                             [**2164-5-5**]  03:00 PM
                             [**2164-5-6**]  03:31 AM
                             [**2164-5-6**]  05:15 PM
                             [**2164-5-7**]  04:01 AM
                             [**2164-5-7**]  02:59 PM
                             [**2164-5-8**]  07:09 AM
                             [**2164-5-9**]  05:13 AM
   WBC
   7.2
   8.6
   4.7
   7.0
   Hct
   36.6
   39.0
   39.2
   36.2
   Plt
   [**Telephone/Fax (3) 3245**]85
   Cr
   0.4
   0.4
   0.5
   0.5
   0.4
   0.4
   0.4
   Glucose
   124
   125
   115
   112
   132
   130
   Other labs: ALT / AST:[**9-13**], Alk Phos / T Bili:60/0.3,
   Differential-Neuts:92.0 %, Band:0.0 %, Lymph:7.0 %, Mono:1.0 %, Eos:0.0
   %, LDH:580 IU/L, Ca++:8.8 mg/dL, Mg++:2.1 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   1.) Small cell lung ca with bronchus intermedius compression, SVC
   syndrome
         - 3rd dose of cisplat and etoposide last night
         -Continue to assess ability to lay flat daily to see if she will
   tolerate XRT
         - improved clinical status with less dyspnea, but still requiring
   high flow oxygen
         -Will attempt diuresis to further improve dyspnea
   2.) FEN:  Poor po intake, will continue to encourage
   3.) Diarrhea: Likely chemo related.  Low threshold for checking C diff.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2164-5-8**] 08:00 AM
   22 Gauge - [**2164-5-8**] 07:53 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :Transfer to floor
   Total time spent: 30 minutes
   Critically ill